US07199120B2
To a solution of 2-(6-chloro-2-pyridinyl)-1-(3-methyl-2-furyl)ethanone (52.2 g, 221 mmol) in methanol (500 mL) was added hydroxylamine hydrochloride (76.96 g, 1.11 mol) followed by an aqueous solution of sodium hydroxide (44.3 g, 1.11 mol). The resultant suspension was heated at reflux for 2 hours and then cooled to room temperature. The mixture was concentrated and water was added to the residue while stirring. After stirring for 20 minutes, a white solid precipitated. This solid was collected by filtration and washed with water to give 2-(6-chloro-2-pyridinyl)-1-(3-methyl-2-furyl)ethanone oxime (29.0 g, 52%) as a white solid. 1H NMR (CDCl3): δ 7.54 (t, 1H), 7.31 (s, 1H), 7.15 (d, 1H), 7.10 (d, 1H), 6.28 (s, 1H), 4.34 (s, 2H), 2.22 (S 3H). MS m/z 273 (M+1).

reactant | 2-(6-chloro-2-pyridinyl)-1-(3-methyl-2-furyl)ethanone | 221 mmol, 52.2 g | ClC1=CC=CC(=N1)CC(=O)C=1OC=CC1C | C12H10ClNO2
reactant | hydroxylamine hydrochloride | 1.11 mol, 76.96 g | Cl.NO
reactant | sodium hydroxide | 1.11 mol, 44.3 g | [OH-].[Na+]
solvent | methanol | 500 mL | CO | CH4O
product | 2-(6-chloro-2-pyridinyl)-1-(3-methyl-2-furyl)ethanone oxime | 29.0 g, 52% | ClC1=CC=CC(=N1)CC(=NO)C=1OC=CC1C | C12H11ClN2O2
